US06777559B2
Acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester
To a solution of 2.9 g (10 mmol) of 1-benzenesulfonyl-1H-indole-2-carbaldehyde (synthesized analogous to M. G. Saulnier, G. W. Gordon, J. Org. Chem.; 47; 5; 1982, 757-761) in 10 ml of tetrahydrofuran was added 6.5 ml of vinylmagnesium chloride 1.7 M solution in THF at −20° C. within 1 h. The temperature increased to 0° C. within 30 min and kept at this temperature for 20 min. To the suspension 1.3 ml acetic anhydride (14 mmol was added at 0° C. within 15 min. The cooling bath was removed and after stirring for 1 h at 20° C. 10 ml water was added at 10-15° C. The mixture was stirred for an additional 1 h at 20° C. The phases were separated, and the aqueous phase was extracted with 20 ml of ethyl acetate. The combined organic phases were washed with 20 ml of brine, dried on sodium sulfate and rotary evaporated (35° C., 12 mbar). The crude material was purified by liquid chromatography (eluent isohexane/ethyl acetate 9:1).

reactant | 1-benzenesulfonyl-1H-indole-2-carbaldehyde | 10 mmol, 2.9 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C=O | C15H11NO3S
reactant | vinylmagnesium chloride | 1.7 M, 6.5 ml | C(=C)[Mg]Cl
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | Acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)OC(C)=O | C19H17NO4S
